US08030500B2
4-Fluoro-1-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine
1-(5-Bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine (80 mg, 0.19 mmol), 5-pyrimidinylboronic acid (31.1 mg, 0.25 mmol), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (15.77 mg, 0.02 mmol), potassium carbonate (2.5 M, aq, 0.290 mL, 0.58 mmol) and DMF (2 mL) were added to a vial and heated in a microwave reactor at 150° C. for 15 min. Brine was added and the product mixture was extracted EtOAc. The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. Purification by preparative HPLC afforded 34.0 mg (43% yield) of the title compound.

reactant | 1-(5-Bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 0.19 mmol, 80 mg | BrC=1C=CC(=C(C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C)F | C20H14BrF2N3
reactant | 5-pyrimidinylboronic acid | 0.25 mmol, 31.1 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 0.58 mmol, 2.5 M, 0.290 mL | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Brine | [Cl-].[Na+].O
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.02 mmol, 15.77 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 4-Fluoro-1-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 34.0 mg, 43% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C)C1=C(C=CC(=C1)C=1C=NC=NC1)F)N | C24H17F2N5
